V:V1 np gnd V=$v_d
Diode:DUT np gnd @D temp=$temp_d
.dc
  .sweep $temp_d type="lin" start=0 stop=50 points=6
  .sweep $v_d type="lin" start=0.5 stop=0.8 points=100
